US05302592
Methyl trans-3-Thiocyanoacrylate (Compound 19)
To a stirred solution of ammonium thiocyanate (7.2 g., 0.095 mole) in 4N sulfuric acid solution (50 ml) at 40° C., a solution of trans-3-chloroacrylic acid (10.0 g., 0.095 mole) in 35 ml of methanol was added dropwise within 5 minutes. The mixture was refluxed for 18 hours, cooled and poured into water which was extracted thoroughly with ether. The ether extract was washed with saturated sodium bicarbonate solution and then with water. After drying (MgSO4), the solution was concentrated to give an oil which distilled at 70° C./0.3 mm; yield, 7.2 g.;

reactant | ammonium thiocyanate | 0.095 mole, 7.2 g | [S-]C#N.[NH4+]
reactant | trans-3-chloroacrylic acid | 0.095 mole, 10.0 g | Cl/C=C/C(=O)O | C3H3ClO2
reactant | water | O | H2O
reactant | methanol | 35 ml | CO | CH4O
solvent | sulfuric acid | 4N, 50 ml | S(O)(O)(=O)=O | H2O4S
product | Methyl trans-3-Thiocyanoacrylate | S(C#N)/C=C/C(=O)OC | C5H5NO2S
